US07488739B2
3-Pentanone and p-toluenesulfonic acid monohydrate were added to a benzene solution of ethyl 7-(cyclohexylamino)-6-fluoro-1-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate, for stirring under reflux under heating for 34 hours, to obtain ethyl 7-(cyclohexylamino)-1-(2,2-diethyl-1,3-dioxan-5-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate.

reactant | 3-Pentanone | CCC(CC)=O | C5H10O
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 7-(cyclohexylamino)-6-fluoro-1-[2-hydroxy-1-(hydroxymethyl)ethyl]-4-oxo-1,4-dihydroquinoline-3-carboxylate | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(CO)CO)C(=O)OCC)=O)F | C21H27FN2O5
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 7-(cyclohexylamino)-1-(2,2-diethyl-1,3-dioxan-5-yl)-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1COC(OC1)(CC)CC)C(=O)OCC)=O)F | C26H35FN2O5
